US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]-4-(6-methyl-3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxamide
Triethylamine (42 μL, 0.298 mmol) was added to a solution of the bis hydrochloride salt of (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine (50 mg, 0.119 mmol) and 1,1′-carbonyldiimidazole (34 mg, 0.209 mmol) in tetrahydrofuran (2 mL) at 0° C. After 15 min, additional 1,1′-carbonyldiimidazole (10 mg, 0.062 mmol). After 30 min, 6-methyl-4-piperidin-4-ylpyridazin-3(2H)-one (28 mg, 0.143 mmol) and dichloromethane (3 mL) were added and the mixture heated to 60° C. After 1 h, the reaction mixture was allowed to cool to ambient temperature and concentrated. Purification by reverse phase HPLC (C-18, 10% acetonitrile/water→100% acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (54 mg). MS 566.2313 (M+1).

reactant | Triethylamine | 0.298 mmol, 42 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine | 0.119 mmol, 50 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)CC(F)(F)F)N | C15H15F5N4
reactant | 1,1′-carbonyldiimidazole | 0.209 mmol, 34 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,1′-carbonyldiimidazole | 0.062 mmol, 10 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 6-methyl-4-piperidin-4-ylpyridazin-3(2H)-one | 0.143 mmol, 28 mg | CC=1C=C(C(NN1)=O)C1CCNCC1 | C10H15N3O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]-4-(6-methyl-3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxamide | 54 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)CC(F)(F)F)NC(=O)N2CCC(CC2)C=2C(NN=C(C2)C)=O | C26H28F5N7O2
